US07034039B2
A suspension of tert-butyl[6-benzyloxy-4-(3-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (3.18 g, 6 mmol) and 5% palladium carbon (1.0 g) in tetrahydrofuran (20 mL) and ethanol (20 mL) was stirred, under a hydrogen atmosphere at room temperature for 2 h. The catalyst was filtered off and the filtrate was concentrated under reduced pressure. The obtained crystals were recrystallized from ethyl acetate-n-hexane to give tert-butyl[4-(3-fluorophenyl)-6-hydroxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (2.54 g, 96.2%) as crystals.

reactant | tert-butyl[6-benzyloxy-4-(3-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 6 mmol, 3.18 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC(=CC=C1)F)OCC1=CC=CC=C1)=O)CC(C)C)=O | C32H35FN2O4
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | palladium carbon | 1.0 g | [C].[Pd]
product | tert-butyl[4-(3-fluorophenyl)-6-hydroxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 2.54 g, 96.2% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC(=CC=C1)F)O)=O)CC(C)C)=O | C25H29FN2O4
